### PR TITLE
[Merged by Bors] - feat(LightProfinite): `LightProfinite` is precoherent

### PR DESCRIPTION
**Pull request by dagurtomas**
This PR gives the characterisation effective epi \iff epi \iff continuous surjection in `LightProfinite`, following the same approach as for `CompHaus`, `Profinite` and `Stonean`. We conclude that `LightProfinite` is preregular and finitary extensive, hence precoherent, allowing the definition of light condensed sets (done in #11586). 

---
- [x] depends on: #9513 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Category/LightProfinite/EffectiveEpi.lean [hunk 1]
```diff
@@ -0,0 +1,106 @@
...
+
+theorem epi_iff_surjective {X Y : LightProfinite.{u}} (f : X ⟶ Y) :
+    Epi f ↔ Function.Surjective f := by
+  constructor
+  · dsimp [Function.Surjective]
+    contrapose!
+    rintro ⟨y, hy⟩ hf
+    let C := Set.range f
+    have hC : IsClosed C := (isCompact_range f.continuous).isClosed
+    let U := Cᶜ
```
Comment (joelriou) [inline Mathlib/Topology/Category/LightProfinite/EffectiveEpi.lean:56]:
```suggestion
```
You may replace `U` by `Cᶜ` in the proof below.

**Comment by joelriou** [comment]
Thanks!

bors d+

**Comment by dagurtomas** [comment]
Thanks for the review!

bors merge
